US07160922B2
Biphenyl-4-carboxylic acid (R)-(6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide hemihydrate
Dissolve biphenyl-4-carboxylic acid (R)-(6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide acetonitrile solvate (2.0 g) in methanol (24 mL) at 20–23° C. Add water (5 mL) to the solution, followed by hemihydrate seed crystals (20 mg). Stir the mixture for 2 h at 20–23° C., then cool to 0–5° C. Filter the mixture, wash with a solution of methanol (8 mL) and water (2 mL), and dry at 50–60° C. under vacuum for 16 h to give 1.66 g of the title compound.

reactant | biphenyl-4-carboxylic acid (R)-(6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide acetonitrile | 2.0 g | C(C)#N.FC1=CC=C(CCNC(C)=NC2=CC=C3C[C@H]([C@@H](C3=C2)NC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)O)C=C1
reactant | water | 5 mL | O | H2O
solvent | methanol | 24 mL | CO | CH4O
product | Biphenyl-4-carboxylic acid (R)-(6-(1-((4-fluorobenzyl)methylamino)ethylideneamino)-2(R)-hydroxyindan-1-yl)amide hemihydrate | 1.66 g | O.FC1=CC=C(CCNC(C)=NC2=CC=C3C[C@H]([C@@H](C3=C2)NC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)O)C=C1.C1(=CC=C(C=C1)C(=O)N[C@H]1[C@@H](CC2=CC=C(C=C12)N=C(C)NCCC1=CC=C(C=C1)F)O)C1=CC=CC=C1 | InChI=1S/2C32H30FN3O2.H2O/c2*1-21(34-18-17-22-7-14-27(33)15-8-22)35-28-16-13-26-19-30(37)31(29(26)20-28)36-32(38)25-11-9-24(10-12-25)23-5-3-2-4-6-23;/h2*2-16,20,30-31,37H,17-19H2,1H3,(H,34,35)(H,36,38);1H2/t2*30-,31-;/m11./s1
